US07566735B2
1-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}ethanone
The title compound was prepared from 4-iodoacetophenone and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 7.

reactant | 4-iodoacetophenone | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | 1-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}ethanone | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)C(C)=O)(F)F | C16H15F3N2O
